US04011334
A mixture of 32.8 g (0.1 mole) of 5-(dodecylthio)-2-thiophenecarboxylic acid in 500 ml of tetrahydrofuran is stirred in an ice bath. To the cooled mixture is slowly added 19.5 g (0.12 mole) of 1,1'-carbonyldiimidazole. The reaction mixture is refluxed for 2 hours, then cooled in an ice bath. Ether and ice water are added to the mixture and the layers separated. The ether layer is washed with ice water and 5% aqueous sodium bicarbonate then dried over solium sulfate and evaporated to dryness to give 1-[5-(dodecylthio)-2-thienylcarbonyl]-1H-imidazole. To a stirred mixture of 37.9 g (0.1 mole) of the crude 1-[5-dodecylthio)-2-thienylcarbonyl]-1-H-imidazole in 500 ml of tetrahydrofuran cooled to -20° C is slowly added 0.95 g (0.25 mole) of lithium aluminum hydride in 100 ml of ether. After 1 hour 100 ml of 5% aqueous hydrochloric acid is added dropwise with stirring after which the mixture is warmed to room temperature, diluted with water and ether and extracted. The ether layer is washed with 5% aqueous hydrochloric acid water and 5% aqueous sodium bicarbonate then dried over sodium sulfate and evaporated to dryness to give 5-(dodecylthio)-2-thiophenecarboxaldehyde.

reactant | 5-(dodecylthio)-2-thiophenecarboxylic acid | 0.1 mole, 32.8 g | C(CCCCCCCCCCC)SC1=CC=C(S1)C(=O)O | C17H28O2S2
reactant | 1,1'-carbonyldiimidazole | 0.12 mole, 19.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 1-[5-(dodecylthio)-2-thienylcarbonyl]-1H-imidazole | C(CCCCCCCCCCC)SC1=CC=C(S1)C(=O)N1C=NC=C1 | C20H30N2OS2
